2120-03-16 10:41:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   81 yo female with metastatic melanoma
   Was undergoing chemo and had gotten steroids/ativan/zofran in clinic
   for nausea with subsequent drowsiness
   SBP 70's in clinic
   Received 2 lliters NS with some improvement, but remained orthostatic
   +N/V, poor po intake, dull abdominal pain
   Sent to ED: 116/86 then to floor: CTA with small subsegmental PE's
   Yesterday, developed respiratory distress with desats to 80's on 2lnc.
   Received lasix without much uop but drop in SBP. Transferred to [**Hospital Unit Name 10**].
   In [**Hospital Unit Name 10**]: lactate 4.9 and was resusc. with LR
             head CT for facial assymetry showed no new changes/bleeds,
   +mets (unchanged)
            had recurr. episodes of tachycardia- likely afib RVR with
   hypotension. Levophed and fluids started with improvt
            Abx/stress dose steroids started for presumptive sepsis with
   adrenal insufficiency- GNR eventually recovered from [**Hospital Unit Name **]
   24 Hour Events:
 ARTERIAL LINE - START [**2120-3-15**] 05:25 PM
 MULTI LUMEN - START [**2120-3-15**] 05:30 PM
 FEVER - 101.6
F - [**2120-3-15**] 10:00 AM
   *Continued recurr. afib- started on amiodarone gtt
   History obtained from [**Hospital 31**] Medical records, ICU housestaff
   Allergies:
   Aspirin
   Abdominal pain;
   Nsaids
   GI bleed;
   Technetium-99m
   Hives;
   Gadolinium-Containing Agents
   tongue
   lip tin
   Last dose of Antibiotics:
   Ceftriaxone - [**2120-3-15**] 12:00 PM
   Vancomycin - [**2120-3-16**] 08:00 AM
   Ciprofloxacin - [**2120-3-16**] 09:48 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Metoprolol - [**2120-3-15**] 02:39 PM
   Lorazepam (Ativan) - [**2120-3-15**] 04:45 PM
   Fentanyl - [**2120-3-15**] 05:00 PM
   Other medications:
   vitamin C, omeprazole, levothyroxine, evista,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-16**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 35.9
C (96.7
   HR: 95 (82 - 161) bpm
   BP: 123/67(90) {90/48(62) - 136/76(97)} mmHg
   RR: 17 (13 - 47) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 5 (5 - 15)mmHg
   Total In:
                                                                  3,085 mL
                                                                  1,994 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                  3,085 mL
                                                                  1,754 mL
   [**Year (4 digits) 229**] products:
   Total out:
                                                                    248 mL
                                                                    165 mL
   Urine:
                                                                    148 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,837 mL
                                                                  1,829 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.39/29/112/18/-1
   PaO2 / FiO2: 112
   Physical Examination
   General Appearance: Well nourished, conversant
   Head, Ears, Nose, Throat: Normocephalic, right CVL
   Lymphatic: Cervical WNL
   Cardiovascular: RRR no M/G/R
   Peripheral Vascular: [**1-5**]+ DP pulses
   Respiratory / Chest: rare rales  bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: responds to commands, conversant
   Labs / Radiology
   8.7 g/dL
   158 K/uL
   200 mg/dL
   1.6 mg/dL
   18 mEq/L
   4.5 mEq/L
   30 mg/dL
   100 mEq/L
   132 mEq/L
   26.4 %
   24.9 K/uL
        [image002.jpg]
                             [**2120-3-15**]  10:21 AM
                             [**2120-3-15**]  10:25 AM
                             [**2120-3-15**]  02:55 PM
                             [**2120-3-16**]  05:11 AM
   WBC
   12.5
   24.9
   Hct
   28.0
   26.4
   Plt
   215
   158
   Cr
   1.0
   1.6
   TCO2
   18
   21
   Glucose
   146
   200
   Other labs: PT / PTT / INR:21.5/150.0/2.0, ALT / AST:22/43, Alk Phos /
   T Bili:180/1.3, Differential-Neuts:89.0 %, Band:5.0 %, Lymph:5.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, LDH:2720 IU/L, Ca++:6.9
   mg/dL, Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Fluid analysis / Other labs: Urine and 2 [**Year (4 digits) **] cultures: GNR's
   Echo: n
l LVEF, mild pulm HTN
   Assessment and Plan
 .H/O TACHYCARDIA, OTHER
   81 yo female with met melanoma admitted with resp distress,
   tachycardia, shock- ultimately dx
d with GNR UTI and sepsis and
   multiorgan failure with shock, rapid afib
   1.       Hypotension from sepsis/adrenal insufficiency (known adrenal
   mets with cortisol 8): improved, no longer on pressors. Given recovery
   of GNR
s from urine/[**Last Name (LF) **], [**First Name3 (LF) 116**] dc Vanco and continue cipro/CTX pending
   species ID.
   2.       Afib: converted to SR on amio infusion. No prior history of
   afib though severe sepsis likely an inciting factor. Will continue amio
   infusion today, but consider d/c tomorrow
   3.       PE
s: not on anticoagulation. Unclear over long term
   feasibility given head mets, and as such, would also check LE dopplers
   to look for source. If eventually started on anti-coagulation, would be
   better to use reversible [**Doctor Last Name 23**] such as heparin infusion
   4.       Acute renal insufficiency: presumptively from
   hypotension/ATN. Pt remains oliguric. Renally dose meds and will
   re-check electrolytes/renal function this afternoon
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-3-15**] 10:13 AM
   22 Gauge - [**2120-3-15**] 10:13 AM
   Arterial Line - [**2120-3-15**] 05:25 PM
   Multi Lumen - [**2120-3-15**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   T

2120-03-17 12:32:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Intermittent hypotensive and tachycardic requiring Levophed/fluid
   boluses
   Pan sensitive Ecoli recovered from blood- abx changed to cipro
   Remained on amiodarone gtt until this morning
   Allergies:
   Aspirin
   Abdominal pain;
   Nsaids
   GI bleed;
   Technetium-[**Age over 90 **]m
   Hives;
   Gadolinium-Containing Agents
   tongue
   lip tin
   Last dose of Antibiotics:
   Vancomycin - [**2120-3-16**] 08:00 AM
   Ceftriaxone - [**2120-3-16**] 12:46 PM
   Ciprofloxacin - [**2120-3-17**] 08:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2120-3-17**] 05:04 AM
   Omeprazole (Prilosec) - [**2120-3-17**] 08:00 AM
   Other medications:
   Colace, Vit E, ascorbic acid, MVI, Omeprazole, levothyroxine, Evista,
   hydrocortisone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-17**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.4
C (95.8
   HR: 86 (71 - 121) bpm
   BP: 116/58(79) {95/48(66) - 141/123(351)} mmHg
   RR: 15 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 13 (5 - 104)mmHg
   Total In:
                                                                  2,623 mL
                                                                  1,626 mL
   PO:
                                                                    300 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,323 mL
                                                                  1,386 mL
   Blood products:
   Total out:
                                                                    380 mL
                                                                    454 mL
   Urine:
                                                                    380 mL
                                                                    454 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,243 mL
                                                                  1,172 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   Alert and oriented
   Lungs CTA
   CV: irreg
   Abd, soft, mildly distended, ecchymoses LLQ with superficial tenderness
   Ext. calves NT, no edema
   Decreased skin turgor with skin tenting
   Labs / Radiology
   8.6 g/dL
   85 K/uL
   207 mg/dL
   1.7 mg/dL
   18 mEq/L
   4.0 mEq/L
   38 mg/dL
   102 mEq/L
   132 mEq/L
   25.6 %
   18.3 K/uL
        [image002.jpg]
                             [**2120-3-15**]  10:21 AM
                             [**2120-3-15**]  10:25 AM
                             [**2120-3-15**]  02:55 PM
                             [**2120-3-16**]  05:11 AM
                             [**2120-3-16**]  03:20 PM
                             [**2120-3-17**]  04:22 AM
   WBC
   12.5
   24.9
   17.9
   18.3
   Hct
   28.0
   26.4
   26.0
   25.6
   Plt
   [**Telephone/Fax (3) 4805**]5
   Cr
   1.0
   1.6
   1.7
   1.7
   TCO2
   18
   21
   Glucose
   146
   200
   164
   207
   Other labs: PT / PTT / INR:19.1/37.7/1.8, ALT / AST:22/43, Alk Phos / T
   Bili:180/1.3, Differential-Neuts:89.0 %, Band:5.0 %, Lymph:5.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, LDH:2720 IU/L, Ca++:6.6
   mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOTENSION (NOT SHOCK)
 HYPOCALCEMIA (LOW CALCIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O TACHYCARDIA, OTHER
   83 yo female with metastatic melanoma s/p DTIC chemotherapy with Ecoli
   UTI/sepsis with MS changes, shock, afib.
   Overall improving, still intermittently required levophed and amio
   Ecoli sepsis: continue cipro
   Afib: no prior history, so sepsis may have been inciting factor- will
   observe off amiodarone gtt.
   ARF: From hypotension/ATN- renal fxn unchanged; continue to trend renal
   function
   Thrombocytopenia: Drop in plt count to [**1-6**] of level since admission-
   various causes include sepsis, vanco, somewhat early for HIT or DTIC
   will follow and see if this is improved as she
s now off vanco
   Rest of plan per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-3-15**] 05:25 PM
   Multi Lumen - [**2120-3-15**] 05:30 PM
   22 Gauge - [**2120-3-17**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Pt is critically ill

2120-03-19 11:14:00 Physician Attending Progress Note
Chief Complaint: Septic shock
   HPI:
   81F w/ met melanoma p/w e.coli sepsis secondary to UTI
   24 Hour Events:
 ARTERIAL LINE - STOP [**2120-3-18**] 08:30 AM
 ULTRASOUND - At [**2120-3-18**] 05:23 PM
   LENI's done portable
   Afib with RVR associated with mild hypotension yesterday afternoon that
   resolved with rest and one dose of IV lopressor.  Since then, sinus
   with mostly normal rate.
   Denies any pain this morning.  Breathing is comfortable.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Aspirin
   Abdominal pain;
   Nsaids
   GI bleed;
   Technetium-99m
   Hives;
   Gadolinium-Containing Agents
   tongue
   lip tin
   Last dose of Antibiotics:
   Ceftriaxone - [**2120-3-16**] 12:46 PM
   Ciprofloxacin - [**2120-3-18**] 08:13 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2120-3-18**] 02:00 PM
   Heparin Sodium - [**2120-3-18**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Respiratory: No(t) Dyspnea
   Gastrointestinal: Nausea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2120-3-19**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 113 (78 - 169) bpm
   BP: 117/54(61) {86/50(60) - 197/177(181)} mmHg
   RR: 22 (11 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,736 mL
                                                                    364 mL
   PO:
                                                                    350 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  2,386 mL
                                                                    214 mL
   Blood products:
   Total out:
                                                                  1,110 mL
                                                                    400 mL
   Urine:
                                                                  1,110 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,626 mL
                                                                    -36 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   88 K/uL
   143 mg/dL
   1.2 mg/dL
   19 mEq/L
   4.1 mEq/L
   40 mg/dL
   107 mEq/L
   136 mEq/L
   25.9 %
   7.8 K/uL
        [image002.jpg]
                             [**2120-3-15**]  10:21 AM
                             [**2120-3-15**]  10:25 AM
                             [**2120-3-15**]  02:55 PM
                             [**2120-3-16**]  05:11 AM
                             [**2120-3-16**]  03:20 PM
                             [**2120-3-17**]  04:22 AM
                             [**2120-3-18**]  04:20 AM
                             [**2120-3-19**]  04:22 AM
   WBC
   12.5
   24.9
   17.9
   18.3
   12.2
   7.8
   Hct
   28.0
   26.4
   26.0
   25.6
   24.2
   25.9
   Plt
   [**Telephone/Fax (3) 4805**]5
   81
   88
   Cr
   1.0
   1.6
   1.7
   1.7
   1.4
   1.2
   TCO2
   18
   21
   Glucose
   146
   200
   164
   [**Telephone/Fax (3) 4855**]
   Other labs: PT / PTT / INR:19.1/97.1/1.8, ALT / AST:22/43, Alk Phos / T
   Bili:180/1.3, Differential-Neuts:89.0 %, Band:5.0 %, Lymph:5.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.5 g/dL,
   LDH:2720 IU/L, Ca++:7.1 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   1) Sepsis:
   Resolved--continue IV cipro (day 4 of 14)
   Recheck blood cultures to assure clearance of bacteremia.
   2) PE:
   Heparin gtt.  Plan to transition to lovenox once renal function
   improves.
   LENIs negative.  No indication for caval filter.
   3) Afib:
   Currently in sinus and rate controlled.
   Continue lopressor.
   4) Acute renal failure:
   Improving and Cr trending down.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-3-15**] 05:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent:
   ------ Protected Section ------
   Time spent  35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 242**], MD
   on:[**2120-3-19**] 13:05 ------